US07875617B2
3. 1-N(3-cyanopropyl)-4-N(2-methoxyphenyl)piperazine
A mixture of 2-methoxy-phenylpiperazine (8 g), K2CO3 (2.5 eq) and 4-bromobutyronitrile (1.05 eq) in CH3CN (150 mL) was refluxed for 10 h. After filtration and concentration in vacuo, the residue is taken up in AcOEt (1000 ml), washed with H2O, the organic layer is washed with aqueous HCl (50 mL, 1 M). Then the acid layer is washed with AcOEt (2×20 ml) and neutralized with aqueous NH3 (28% in H2O) until pH 11. Extraction is carried out with AcOEt, the organic layer is dried with Na2SO4 and concentrated in vacuo. The residual solid is crystallized in hexane to give the title compound (6.8 g, 75%, mp 74° C.). 1H NMR (200 MHz, CDCl3) δ 1.80-1.94 (m, 2H), 2.43-2.57 (m, 4H), 2.62-2.67 (m, 4H), 3.09 (m, 4H), 3.87 (s, 3H), 6.85-7.04. 13C NMR (50 MHz, CDCl3) δ 14.9, 22.7, 50.5, 53.2, 55.3, 56.3, 111.1, 118.1, 119.8, 120.9, 122.9, 141.1, 152.2.

reactant | 2-methoxy-phenylpiperazine | 8 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | K2CO3 | 2.5 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromobutyronitrile | 1.05 eq | BrCCCC#N | C4H6BrN
solvent | CH3CN | 150 mL | CC#N | C2H3N
product | 1-N(3-cyanopropyl)-4-N(2-methoxyphenyl)piperazine | 6.8 g, 75% | C(#N)CCCN1CCN(CC1)C1=C(C=CC=C1)OC | C15H21N3O
